US07847101B2
To a solution of 4,4′-dithiobis(N-methyl-3-nitrobenzenesulfonamide) (1.5 g, 3.1 mmol) in ethanol (70 mL) was added a solution of tin chloride dihydrate (5.5 g) in hydrochloric acid (10 mL of a 2N solution). The reaction mixture was heated to reflux over night and then malononitrile (660 mg, 10 mmol) was added. The resulting mixture was refluxed for an additional 5 hrs and was then cooled to room temperature and diluted with water. The solid was isolated by filtration and was purified by flash column chromatography to yield 120 mg (8%) of 2-cyanomethylbenzothiazole-5-sulfonic acid methylamide.

reactant | 4,4′-dithiobis(N-methyl-3-nitrobenzenesulfonamide) | 3.1 mmol, 1.5 g | CNS(=O)(=O)C1=CC(=C(C=C1)SSC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-])[N+](=O)[O-] | C14H14N4O8S4
reactant | tin chloride dihydrate | 5.5 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | malononitrile | 10 mmol, 660 mg | C(CC#N)#N | C3H2N2
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-cyanomethylbenzothiazole-5-sulfonic acid methylamide | 120 mg, 8% | CNS(=O)(=O)C=1C=CC2=C(N=C(S2)CC#N)C1 | C10H9N3O2S2
